US06635766B1
2-Chloro-6-[3-(trifluoromethyl)phenoxy]pyridine
17.45 g (690 mmol) of sodium hydride (95 percent) was suspended in 420 ml of N,N-dimethylacetamide. 106.7 g (658 mmol) of 3-(trifluoromethyl)phenol was added dropwise over 2 hours at 15° C. The resultant phenate solution was added dropwise over 2.5 hours, under nitrogen, to a solution of 162.4 g (1.097 mol) of 2,6-dichloropyridine in 330 ml of N,N-dimethylacetamide, heated to 90° C. After a further 3 hours of reaction time, the mixture was cooled to room temperature, the precipitate of sodium chloride was filtered off and the filtrate was concentrated. The residue was taken up with toluene and 0.1 N hydrochloric acid, and the organic phase was washed with saturated sodium chloride solution and concentrated. The oily residue (ca. 200 g) was distilled under a vacuum. The yield of the title compound was 151.5 g (84 percent) of a colorless oil, content (GC) 99.8 percent. Other data concerning the title compound was:

reactant | sodium hydride | 690 mmol, 17.45 g | [H-].[Na+]
reactant | 3-(trifluoromethyl)phenol | 658 mmol, 106.7 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 2,6-dichloropyridine | 1.097 mol, 162.4 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | N,N-dimethylacetamide | 420 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 330 ml | CN(C(C)=O)C | C4H9NO
product | 2-Chloro-6-[3-(trifluoromethyl)phenoxy]pyridine | ClC1=NC(=CC=C1)OC1=CC(=CC=C1)C(F)(F)F | C12H7ClF3NO
